US08202885B2
rac-Isobutyric acid (1R*,2R*,4R*)-2-(2-{[3-(7-isobutyryloxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl ester
Prepared according to procedure P1.4 in Example 1A using rac-(1R*,2R*,4R*)-2-(3-{[2-(2-hydroxy-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl)-ethyl]-methyl-amino}-propyl)-3H-benzoimidazol-4-ol and 5 eq. of isobutyryl chloride.

reactant | rac-(1R*,2R*,4R*)-2-(3-{[2-(2-hydroxy-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl)-ethyl]-methyl-amino}-propyl)-3H-benzoimidazol-4-ol | OC1(C2C=C(C(C1)CC2)C2=CC=CC=C2)CCN(CCCC=2NC1=C(N2)C=CC=C1O)C | C27H33N3O2
reactant | isobutyryl chloride | 5 eq. | C(C(C)C)(=O)Cl | C4H7ClO
product | rac-Isobutyric acid (1R*,2R*,4R*)-2-(2-{[3-(7-isobutyryloxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl ester | C(C(C)C)(=O)OC1=CC=CC2=C1NC(=N2)CCCN(CC[C@]2([C@H]1C=C([C@@H](C2)CC1)C1=CC=CC=C1)OC(C(C)C)=O)C | C35H45N3O4
